Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo woman with no significant past medical history, here with 
abdominal pain and transaminitis.

She has had abdominal pain for the past ___ weeks.  The pain is 
crampy, sometimes associated with sitting up, and centers in her 
upper abdomen.  She has not had nausea or vomiting associated 
with the symptoms.  She has had no jaundice of the skin.  She 
was seen in the ED on ___, and was found to have AST 1056, ALT 
604, Alk phos 14o, T bili 1.4.  She had an ultrasound without 
stones, and hepatitis serologies were negative.  Symptoms were 
attributed to fish oil and tylenol ( although she does not 
endorse much tylenol use).  She stopped taking both fish oil and 
tylenol.  She continued to have intermittent abdominal pain over 
the subsequent 2 weeks, but LFTs trended down.  Abdominal CT 
done on ___ was normal, with normal liver and no gall stones.  
Abdominal pain then resolved.

Pain recurred approximatly 1 week ago.  The pain was similar in 
character, and centered in her right upper quadrant.  She has 
had low energy level as well, but no weight loss.  The pain has 
been more noticeable with activity and stretching of her 
abdominal wall.  She also noticed a few pustules on her skin, 
which have since resolved.  She describes pain in RUQ with 
inspiration, and with movement.  No radiation to jaw or arms.  
No associated SOB, nausea, vomiting, diaphoresis.  No drug 
intake, no alcohol, no herbal remedies.

ROS otherwise reviewed in detail, and negative in all other 
systems aside from those referenced above.
 
Past Medical History:
Abdominal hysterectomy
Allergic rhinitis
Urticaria
 
Social History:
___
Family History:
No gallbladder disease.  Father died in ___ of aneurysm.  Mother 
still alive at ___ but s/p CVA.  No hypertension, CAD, DM.  3 
 
Physical Exam:
Exam
 VS  T 97      BP  156/98   HR  80    RR 20  98% RA O2sat
 
Gen:  In NAD.
HEENT:  PERRL, EOMI.  No scleral icterus.  No conjunctival 
injection.   Mucous membranes moist.  No oral ulcers.  
Neck:  Supple, no LAD, no JVP elevation.
Lungs: CTA bilaterally, no wheezes, rales, rhonchi.  Normal 
respiratory effort.
CV:  RRR, no murmurs, rubs, gallops.
Abdomen:  soft, RUQ tendernes to palpation, no rebound or 
guarding.  No epigastric pain.  No palpable liver edge.
Extremities:  warm and well perfused, no cyanosis, clubbing, 
edema.
Neurological:  alert and oriented X 3, CN II-XII intact. Moves 
all extremities. No pronator drift.
Skin:  Inflamed follicle on right neck.
Psychiatric:  Appropriate.
GU:  deferred.
 
Pertinent Results:
Labs from ___
ALT(SGPT)-553* AST(SGOT)-417* ALK PHOS-175* TOT BILI-1.2
 GGT-862*
WBC-6.0 RBC-4.73 HGB-13.7 HCT-41.6 MCV-88 MCH-28.9 MCHC-32.9 
RDW-13.9
 NEUTS-39.2* LYMPHS-53.5* MONOS-5.1 EOS-1.8 BASOS-0.4 PLT 
COUNT-326

Labs from ___:
GLUCOSE-91 UREA N-8 CREAT-1.0 SODIUM-141 POTASSIUM-3.8 
CHLORIDE-106 TOTAL CO2-27 ANION GAP-12
ALT(SGPT)-388* AST(SGOT)-163* ALK PHOS-155* TOT BILI-0.6
 LIPASE-26
URINE  UCG-NEGATIVE
 WBC-6.2 RBC-4.75 HGB-13.2 HCT-39.3 MCV-83 MCH-27.8 MCHC-33.6 
RDW-14.1
NEUTS-44.2* LYMPHS-50.4* MONOS-2.8 EOS-2.1 BASOS-0.6
PLT COUNT-285

URINE  COLOR-Yellow APPEAR-Clear SP ___
BLOOD-NEG NITRITE-NEG PROTEIN-NEG GLUCOSE-TR KETONE-NEG 
BILIRUBIN-SM UROBILNGN-NEG PH-5.0 LEUK-NEG
URINE  ___ BACTERIA-FEW YEAST-NONE ___
.
EKG ___ NSR 72, nl axis, intervals, no change since ___
.
IMAGING:
RUQUS ___:  No gallstones.  No cholecystitis.
.
Abdominal CT ___: 
1. Normal CT abdomen and pelvis, with no masses or liver 
abnormality detected. 
2. Incidental note is made of a duplex collecting system on the 
right, but no complications are seen in the right kidney. 
.
Abdominal U/S ___:  Cholelithiasis, without evidence of 
cholecystitis.
.
Prior liver workup:
normal ferritin, iron, hepatitis serologies.
.
Discharge labs:
WBC 7.3, Hct 37.8, Plts 307
ALT 199, AST 48, AP 115, T bili 0.4
.
ERCP ___:
Impression: Cannulation of the biliary duct was successful and 
deep with a sphincterotome using a free-hand technique. Contrast 
medium was injected resulting in complete opacification.  
There was a filling defect that appeared like sludge in the 
lower third of the common bile duct.  
A successful biliary sphincterotomy was performed in the 12 
o'clock position using a sphincterotome over an existing 
guidewire.  
Sludge was extracted successfully using a balloon catheter.  
 

 
Brief Hospital Course:
___ yo woman with recurrent abdominal pain with transaminitis, 
now found to have cholelithiasis.  Symptoms suspicious for 
recurrent biliary colic with CBD stone. Differential also 
includes cardiac syndrome, but less likely with normal EKG, no 
risk factors and findings of transaminitis and cholelithiasis.  
Hepatitis serologies and hemochromatosis workup negative.
.
She was admitted and underwent ERCP which revealed gallstones 
and sludge in the bile duct.  She had a sphincterotomy performed 
and her transaminitis improved.  She was started on a regular 
diet and will be discharged to follow up with her PCP and ___ 
general surgeon regarding possible cholecystectomy.

 
Medications on Admission:
None.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transaminitis
Gallstones with obstruction
Abdominal pain
 
Discharge Condition:
Ambulating, eating normal diet, no abdominal pain.
 
Discharge Instructions:
You were admitted with elevated liver enyzmes.  We found that 
you likely had a blockage in your liver which was relieved by 
the procedure.  You have an appointment to see a surgeon for 
evaluation for removal of your gallbladder.
.
No new medications were added.

 
Followup Instructions:
___